### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): more API for Turán density

### PR DESCRIPTION
**Pull request by mitchell-horner**
Refactors `tendsto_turanDensity` and implements `turanDensity_eq_sInf` and `isContained_of_card_edgeFinset` (theorems that are common in proofs involving Turán density).

---

- [x] depends on:  #32134

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 1]
```diff
@@ -61,28 +64,44 @@ lemma antitoneOn_extremalNumber_div_choose_two (H : SimpleGraph W) :
     simpa [edgeFinset_deleteIncidenceSet_eq_filter]
       using card_edgeFinset_deleteIncidenceSet_le_extremalNumber h v
 
+lemma bbdBelow_extremalNumber_div_choose_two (H : SimpleGraph W) :
+    BddBelow { (extremalNumber n H / n.choose 2 : ℝ) | n ∈ Set.Ici 2 } := by
+  refine ⟨0, fun x ⟨n, hn, hx⟩ ↦ ?_⟩
+  rw [← hx]
+  positivity
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: Does this really deserve to be a public lemma?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 2]
```diff
@@ -61,28 +64,44 @@ lemma antitoneOn_extremalNumber_div_choose_two (H : SimpleGraph W) :
...
+
+lemma tendsto_extremalNumber_div_choose_two (H : SimpleGraph W) :
+    Tendsto (fun n ↦ (extremalNumber n H / n.choose 2 : ℝ)) atTop
+      (𝓝 (sInf { (extremalNumber n H / n.choose 2 : ℝ) | n ∈ Set.Ici 2 })) := by
+  let f := fun n ↦ (extremalNumber n H / n.choose 2 : ℝ)
+  have hf_Ici : f '' (Set.Ici 2) = Set.range (fun n ↦ f (n + 2)) := by
+    refine Set.ext fun x ↦ ⟨fun ⟨n, hn, hfn⟩ ↦ ⟨n - 2, ?_⟩,
+      fun ⟨n, hfn⟩ ↦ ⟨n + 2, Nat.le_add_left 2 n, hfn⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: Does grind help here?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 3]
```diff
@@ -93,9 +112,28 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
...
+    refine ⟨2, fun n hn ↦ ?_⟩
     simp [h, Nat.choose_eq_zero_iff, hn]
   simpa [isEquivalent_iff_tendsto_one hz] using hπ
 
+/-- `n`-vertex simple graphs having at least `(turanDensity H + o(1)) * n ^ 2` edges contain
+`H`, for sufficently large `n`. -/
+theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε) :
+    ∃ N, ∀ {V : Type*} [Fintype V], N ≤ card V →
+      ∀ {G : SimpleGraph V} [DecidableRel G.Adj],
+        #G.edgeFinset ≥ (turanDensity H + ε) * (card V).choose 2 → H ⊑ G := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: This theorem is weaker than you think: The `N` is allowed to depend on the universe of `V`. Here it would be better to define `N` explicitly first, for example call it  `turanDensityConst`, then prove your theorem.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 1 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: TL;DR: you need a proof of `BddBelow` to apply `csInf_*` lemmas. 

It looks a little questionable in this PR because it is only used once. I use `turanDensity_eq_sInf` + `bbdBelow_extremalNumber_div_choose_two` to prove a few results downstream. E.g.,
```
theorem turanDensity_le_extremalNumber_div_choose_two (H : SimpleGraph W) {n : ℕ} (hn : n ≥ 2) :
    turanDensity H ≤ extremalNumber n H / n.choose 2 := by
  rw [turanDensity_eq_sInf H]
  exact csInf_le (bbdBelow_extremalNumber_div_choose_two H) ⟨n, hn, rfl⟩
```

I figured if `turanDensity_eq_sInf` is public (which probably has a better reason to be) it is useful to also have `bbdBelow_extremalNumber_div_choose_two` public.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 2 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: A little bit! 😁

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 3 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: > Here it would be better to define `N` explicitly first, for example call it `turanDensityConst`, then prove your theorem.

I don't know `N` in this proof; I don't know how I would define it? This proof just argues that if such an `N` doesn't exist then `turanDensity H` doesn't equal the limit in its definition.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: You can define it using choice

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: > You can define it using choice

I figured that. I meant practically. 😅

I should have said: I don't immediately know how to (neatly) extract an existential statement that doesn't suffer the same problem. I thought you might have had an idea.

> This theorem is weaker than you think: The `N` is allowed to depend on the universe of `V`.

Is this truly an issue? This theorem is precisely as strong as I needed it to be for the supersaturation theorem. 😁

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: > I don't immediately know how to (neatly) extract an existential statement that doesn't suffer the same problem. I thought you might have had an idea.

Here there's a cheap trick: Extract the value from the existential when `V : Type`; then for general `V : Type*`, since you have `Fintype V`, you can apply the definition of the extracted value on `Shrink.{0} V : Type`.

But in fact I wonder if you can't prove that `turanDensityConst eps := 100 * eps ^ (-2)` works? Everything seems very explicit here.

> > This theorem is weaker than you think: The `N` is allowed to depend on the universe of `V`.
> 
> Is this truly an issue? This theorem is precisely as strong as I needed it to be for the supersaturation theorem. 😁

It's a usability issue because your current statement has a dangling universe metavariable. In practice, the fact that it's weaker shouldn't be much of an issue because in any proof you can only instantiate it in finitely many universes (at which point you can take the max to get a value that works for all those finitely many universes), but it's definitely morally unsatisfying!

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I think the issue is that you should be proving `IsGLB {(extremalNumber n H / n.choose 2 : ℝ) | n ∈ Set.Ici 2} (turanDensity n)` instead. This is *the* statement that implies all other ones, including `turanDensity n = sInf ...`, `BddBelow ...`, etc...

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I don't think I can prove that prior to proving `turanDensity_eq_sInf`, as `turanDensity` is defined using `limUnder`.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: This probably means we are missing a lemma linking `IsGLB` and `limUnder`! Mind adding it?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: Done.

> This probably means we are missing a lemma linking `IsGLB` and `limUnder`! Mind adding it?

I added every one I could think of. I found a similar existing theorem (`Real.tendsto_of_bddAbove_monotone`) and put ALL the theorems next to it. (Topology > Instances > NNReal > Lemmas.lean) 

This is a terrible spot for these theorems - but I couldn't find a better place.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 3 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I've just used `Fin n` instead.

File: Mathlib/Topology/Instances/NNReal/Lemmas.lean
Comment (YaelDillies) [inline Mathlib/Topology/Instances/NNReal/Lemmas.lean:1]: Can these be a preliminary PR?

File: Mathlib/Data/Set/Image.lean
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:1]: This is definitely the wrong file for this lemma. Try something under `Algebra.Order` instead

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 4]
```diff
@@ -97,9 +104,31 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
...
+    · rw [← hx]
+      have ⟨n, hn, G, _, hcard_edges, h_free⟩ := h m
+      replace h_free : H.Free G := by rwa [← not_nonempty_iff] at h_free
+      trans (extremalNumber n H / n.choose 2)
+      · rw [le_div_iff₀ <| mod_cast Nat.choose_pos (hm.trans hn)]
+        conv =>
+          enter [2, 1, 1]
+          rw [← Fintype.card_fin n]
+        exact hcard_edges.trans (mod_cast card_edgeFinset_le_extremalNumber h_free)
+      · exact antitoneOn_extremalNumber_div_choose_two H hm (hm.trans hn) hn
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: Line of sight rule:
```suggestion
  refine le_csInf ?_ (fun x ⟨m, hm, hx⟩ ↦ ?_)
  · rw [← Set.image, Set.image_nonempty]
    exact Set.nonempty_Ici
  rw [← hx]
  have ⟨n, hn, G, _, hcard_edges, h_free⟩ := h m
  replace h_free : H.Free G := by rwa [← not_nonempty_iff] at h_free
  trans (extremalNumber n H / n.choose 2); swap
  · exact antitoneOn_extremalNumber_div_choose_two H hm (hm.trans hn) hn
  rw [le_div_iff₀ <| mod_cast Nat.choose_pos (hm.trans hn)]
  conv =>
    enter [2, 1, 1]
    rw [← Fintype.card_fin n]
  exact hcard_edges.trans (mod_cast card_edgeFinset_le_extremalNumber h_free)
```

File: Mathlib/Data/Set/Image.lean
Comment (mitchell-horner) [reply Mathlib/Data/Set/Image.lean:1]: I've generalized it to canonically ordered monoids and put it in `Algebra.Order.Monoid.Canonical.Basic`

File: Mathlib/Topology/Instances/NNReal/Lemmas.lean
Comment (mitchell-horner) [reply Mathlib/Topology/Instances/NNReal/Lemmas.lean:1]: #32134

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 5]
```diff
@@ -98,9 +111,30 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
   simp_rw [one_div_mul_cancel h, div_mul_div_comm, one_mul] at hπ
   have hz : ∀ᶠ (x : ℕ) in atTop, turanDensity H * x.choose 2 ≠ 0 := by
     rw [eventually_atTop]
-    use 2
-    intro n hn
+    refine ⟨2, fun n hn ↦ ?_⟩
     simp [h, Nat.choose_eq_zero_iff, hn]
   simpa [isEquivalent_iff_tendsto_one hz] using hπ
 
+/-- `n`-vertex simple graphs having at least `(turanDensity H + o(1)) * n ^ 2` edges contain
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
/-- Simple graphs on `n` vertices having at least `(turanDensity H + o(1)) * n ^ 2` edges contain
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 6]
```diff
@@ -98,9 +111,30 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
...
+`H`, for sufficently large `n`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
`H`, for sufficiently large `n`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 7]
```diff
@@ -98,9 +111,30 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
...
+theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε) :
+    ∃ N, ∀ n ≥ N, ∀ {G : SimpleGraph (Fin n)} [DecidableRel G.Adj],
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
    ∀\^f n in atTop, ∀ {G : SimpleGraph (Fin n)} [DecidableRel G.Adj],
```

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: Can you generalise the ground set?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 8]
```diff
@@ -98,9 +111,30 @@ theorem isEquivalent_extremalNumber (h : turanDensity H ≠ 0) :
...
     rw [eventually_atTop]
-    use 2
-    intro n hn
+    refine ⟨2, fun n hn ↦ ?_⟩
     simp [h, Nat.choose_eq_zero_iff, hn]
   simpa [isEquivalent_iff_tendsto_one hz] using hπ
 
+/-- `n`-vertex simple graphs having at least `(turanDensity H + o(1)) * n ^ 2` edges contain
+`H`, for sufficently large `n`. -/
+theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
theorem eventually_isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε) :
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean (hunk 7 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: If you mean
```
∀ᶠ n in atTop, ∀ {V : Type*} [Fintype V], card V = n →
  ∀ {G : SimpleGraph V} [DecidableRel G.Adj],
    #G.edgeFinset ≥ (turanDensity H + ε) * n.choose 2 → H ⊑ G
```
for sure. 😁

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: But now you see that the eventuality depends on the universe level of `V`, so there could be a priori be no `n` that works for all types. I suggest you give up on the `Eventually` spelling and instead write down an explicit `n\0` after which the statement holds for all `n` and `V`

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I don't have an explicit `n₀`. Everything comes from choice. I understand I can produce a constant by choice and use that, but its six of one, half a dozen of the other. 😅

> the eventuality depends on the universe level of `V`, so there could be a priori be no `n` that works for all types

If this is an issue, it is actually more convenient to leave the ground set not generalised. I use `SimpleGraph (Fin n)` for asymptotic statements and `extremalNumber` uses `SimpleGraph (Fin n)` already.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: It comes from choice, but there is an explicit bound by Turan's theorem, right? To embed H is at most as hard as embedding T_{nr, r} where n is the chromatic number of H and r the independence number

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: `eventually_isContained_of_card_edgeFinset` is an alternative spelling of 
```
turanDensity H = limUnder atTop fun n ↦ (extremalNumber n H / n.choose 2 : ℝ)
```
replacing `extremalNumber n H` with any arbitrary `H`-free graph `G` (on `Fin n` vertices).

Consider the set
```
ℱ = { F : SimpleGraph (Fin n) | #F.edgeFinset ≥ (turanDensity H + ε) * n.choose 2 }
```
If you ask "what `n` ensures every `F ∈ ℱ` contains `H`", then `eventually_isContained_of_card_edgeFinset` is the answer.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: > It comes from choice, but there is an explicit bound by Turan's theorem, right? To embed H is at most as hard as embedding T_{nr, r} where n is the chromatic number of H and r the independence number

If I understand you correctly, you are suggesting `IsContained.of_extremalNumber_lt_card_edgeFinset` with a bound on $\text{ex}(n, K_r) \geq \text{ex}(n, H)$ - this is a bound on the number of edges needed to contain `H` fixing the number of vertices.

`turanDensity H` is a kind of min max quantity, the true density at which `H` is always contained in `G` is an antitone function of the number of vertices, `turanDensity H` is just the limit of that function. 

`eventually_isContained_of_card_edgeFinset` defines a number of vertices such that the true density at which `H` is always contained in `G` is `turanDensity H + ε` (or contrapositively, the number of vertices such that this is the upper bound on the edge density of `H.Free` simple graphs). I can't see how I can reproduce this from your suggestion.

However, this result is strengthed by the Erdős-Stone-Simonovits theorem in the direction that you suggest:
```
/-- If `G` has at least `(1 - 1 / r + o(1)) * n.choose 2` many edges, then `G`
contains a copy of `H`.

This is a corollary of the **Erdős-Stone-Simonovits theorem**. -/
theorem eventually_isContained_of_card_edgeFinset_of_chromaticNumber
    {r : ℕ} (hr_pos : 0 < r) (hχ : H.chromaticNumber = r + 1) {ε : ℝ} (hε_pos : 0 < ε) :
    ∀ᶠ n in atTop, ∀ {G : SimpleGraph (Fin n)} [DecidableRel G.Adj],
      #G.edgeFinset ≥ (1 - 1 / r + ε) * n.choose 2 → H ⊑ G := by
  rw [← turanDensity_eq_of_chromaticNumber hr_pos hχ]
  exact eventually_isContained_of_card_edgeFinset H hε_pos
```
This is also necessarily an asymptotic statement.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: https://en.wikipedia.org/wiki/Erd%C5%91s%E2%80%93Stone_theorem#Quantitative_results is a quantitative result along the lines of what I said above. If you aren't going to prove it, could you at least leave a TODO linking to it and explaining the relationship to the current existential statement?

Also can you revert back to the statement quantified over types, but hardcoding the universe level to be 0?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: I've had a look over what depends on this definition and your suggestion to extract a `turanDensityConst` could help golf a few proofs downstream. I explicitly use this value in several places and can extract theorems/lemmas.

I've left `eventually_isContained_of_card_edgeFinset` as is (I need this statement exactly like this so it is just convenient). I then use it to extract `turanDensityConst`. I then prove 
```
theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε)
    {V : Type*} [Fintype V] (h_verts : card V ≥ turanDensityConst H ε)
    (G : SimpleGraph V) [DecidableRel G.Adj] :
    #G.edgeFinset ≥ (turanDensity H + ε) * (card V).choose 2 → H ⊑ G
```
which should avoid everything we've been discussing. This matches existing patterns in the `Extremal` folder of first proving/defining in terms of `Fin n` and then having a 'generalized' theorem over arbitrary types.

Best of both worlds. 😁

(I've left `isContained_of_card_edgeFinset` as a `→` as I've seen the contrapositive used more often than this direction and it is a little easier to work with like this.)

> https://en.wikipedia.org/wiki/Erd%C5%91s%E2%80%93Stone_theorem#Quantitative_results is a quantitative result along the lines of what I said above. If you aren't going to prove it, could you at least leave a TODO linking to it and explaining the relationship to the current existential statement?

I intend to do this in the file for the Erdős-Stone theorem that will soon exist. 😌 

I may also end up proving the result in the mean time before the relevant pull requests get reviewed. 😅

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 9]
```diff
@@ -13,6 +13,8 @@ public import Mathlib.Data.Nat.Choose.Cast
 import Mathlib.Tactic.Bound
 import Mathlib.Topology.Algebra.InfiniteSum.Order
 
+import Mathlib.Topology.Instances.Real.Lemmas
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:16]:
```suggestion

import Mathlib.Tactic.Bound
import Mathlib.Topology.Algebra.InfiniteSum.Order
import Mathlib.Topology.Instances.Real.Lemmas
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 10]
```diff
@@ -27,6 +29,10 @@ This file defines the **Turán density** of a simple graph.
 
 * `SimpleGraph.isEquivalent_extremalNumber` is the proof that `extremalNumber n H` is
   asymptotically equivalent to `turanDensity H * n.choose 2` as `n` approaches `∞`.
+
+* `SimpleGraph.isContained_of_card_edgeFinset` is the proof that `card V`-vertex simple graphs
+  having at least `(turanDensity H + o(1)) * (card V) ^ 2` edges contain `H`, for sufficently large
+  `card V`.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]: This is confusing. Maybe
```suggestion
* `SimpleGraph.isContained_of_card_edgeFinset`: simple graphs on `n` vertices with
  at least `(turanDensity H + o(1)) * n ^ 2` edges contain `H`, for all sufficiently large `n`.
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 11]
```diff
@@ -75,34 +81,89 @@ See `SimpleGraph.tendsto_turanDensity` for proof of existence. -/
...
+  · rw [← hx]
+    have ⟨n, hn, G, _, hcard_edges, h_free⟩ := h m
+    replace h_free : H.Free G := not_nonempty_iff.mpr h_free
+    trans (extremalNumber n H / n.choose 2)
+    · rw [le_div_iff₀ <| mod_cast Nat.choose_pos (hm.trans hn)]
+      conv =>
+        enter [2, 1, 1]
+        rw [← Fintype.card_fin n]
+      exact hcard_edges.trans (mod_cast card_edgeFinset_le_extremalNumber h_free)
+    · exact antitoneOn_extremalNumber_div_choose_two H hm (hm.trans hn) hn
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
  rw [← hx]
  have ⟨n, hn, G, _, hcard_edges, h_free⟩ := h m
  replace h_free : H.Free G := not_nonempty_iff.mpr h_free
  trans (extremalNumber n H / n.choose 2)
  · rw [le_div_iff₀ <| mod_cast Nat.choose_pos (hm.trans hn)]
    conv =>
      enter [2, 1, 1]
      rw [← Fintype.card_fin n]
    exact hcard_edges.trans (mod_cast card_edgeFinset_le_extremalNumber h_free)
  · exact antitoneOn_extremalNumber_div_choose_two H hm (hm.trans hn) hn
```
since it is the main part of the proof

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 12]
```diff
@@ -75,34 +81,89 @@ See `SimpleGraph.tendsto_turanDensity` for proof of existence. -/
...
+
+open Classical in
+/-- The edge density of `H`-free simple graphs on `turanDensityConst H ε` vertices
+is at most `turanDensity H + ε`.
+
+Contrapositively, `turanDensity H + ε` is the density at which `H` is always contained in simple
+graphs on `turanDensityConst H ε` vertices.
+
+Note that this value is only defined for positive `ε` and `turanDensityConst H ε = 0` for non
+positive `ε`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:151]: Could you write a TODO about formalising the effective results from https://en.wikipedia.org/wiki/Erd%C5%91s%E2%80%93Stone_theorem#Quantitative_results ?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean:151]: If I understand correctly, the effective results you reference are bounds on the size of the parts in the theorem not the number of vertices (and not this `turanDensityConst`).

I intend to add this TODO in the file for the Erdős-Stone theorem that will soon exist. 😌

File: Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean [hunk 13]
```diff
@@ -75,34 +80,89 @@ See `SimpleGraph.tendsto_turanDensity` for proof of existence. -/
...
+  else 0
+
+open Classical in
+/-- Simple graphs on `card V` vertices having at least `(turanDensity H + o(1)) * (card V) ^ 2`
+edges contain `H`, for sufficiently large `card V`. -/
+theorem isContained_of_card_edgeFinset (H : SimpleGraph W) {ε : ℝ} (hε_pos : 0 < ε)
+    {V : Type*} [Fintype V] (h_verts : card V ≥ turanDensityConst H ε)
+    (G : SimpleGraph V) [DecidableRel G.Adj] :
+    #G.edgeFinset ≥ (turanDensity H + ε) * (card V).choose 2 → H ⊑ G := by
+  rw [Iso.card_edgeFinset_eq (G.overFinIso rfl), isContained_congr Iso.refl (G.overFinIso rfl)]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/TuranDensity.lean]:
```suggestion
  rw [(G.overFinIso rfl).card_edgeFinset_eq, isContained_congr .refl (G.overFinIso rfl)]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by b-mehta** [comment]
Thanks!

bors merge

**Comment by YaelDillies** [comment]
It is a slight abuse of notation, but you can easily show it is equivalent to the version that Mitchell proved
